US06384080B1
A solution of 3-chloro-4-methoxybenzylamine (234 mg) in N,N-dimethylformamide (5 mL) was added dropwise to a solution of 5-bromoisatoic anhydride (300 mg) in N,N-dimethylformamide (3 mL). The reaction mixture was stirred for an hour at ambient temperature. The mixture was poured into a mixture of water and ethyl acetate. The precipitates were collected by filtration and washed with 2-propanol to give 2-amino-5-bromo-N-(3-chloro-4-methoxybenyl)benzamide (245 mg) as white powders.

reactant | 3-chloro-4-methoxybenzylamine | 234 mg | ClC=1C=C(CN)C=CC1OC | C8H10ClNO
reactant | 5-bromoisatoic anhydride | 300 mg | BrC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4BrNO3
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-amino-5-bromo-N-(3-chloro-4-methoxybenyl)benzamide | 245 mg | NC1=C(C(=O)NCC2=CC(=C(C=C2)OC)Cl)C=C(C=C1)Br | C15H14BrClN2O2
